US05334716
To a solution of ethyl 4-[1-[4-[1-[4-(1-acetoxy-2-methylpropyl)-2-fluorophenyl]pentyloxy]benzoyl]indolizin-yl]butyrate (300 mg) in ethanol (3 ml) and 1,4-dioxane (3 ml) was added 1N aqueous solution of sodium hydroxide (1.5 ml). The mixture was stirred at room temperature for 1 hour, and then poured into a mixture of ethyl acetate and 0.5N hydrochloric acid. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column eluting with a mixture of chloroform and methanol (25:1) to give 4-[1-[4-[1-[2-fluoro-4-(1-hydroxyl-2-methylpropyl)phenyl]-pentyloxy]benzoyl]indolizin-3-yl]butyric acid (151 mg) as powder.

reactant | ethyl 4-[1-[4-[1-[4-(1-acetoxy-2-methylpropyl)-2-fluorophenyl]pentyloxy]benzoyl]indolizin-yl]butyrate | 300 mg | C(C)(=O)OC(C(C)C)C1=CC(=C(C=C1)C(CCCC)OC1=CC=C(C(=O)C=2C(=CN3C=CC=CC23)CCCC(=O)OCC)C=C1)F | C38H44FNO6
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 0.5N | Cl | ClH
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-[1-[4-[1-[2-fluoro-4-(1-hydroxyl-2-methylpropyl)phenyl]-pentyloxy]benzoyl]indolizin-3-yl]butyric acid | 151 mg | FC1=C(C=CC(=C1)C(C(C)C)O)C(CCCC)OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)O)C=C1 | C34H38FNO5
